US05166416
2'-chloro 4-hydroxy chalcone
20 g of 2-chloro acetophenone and 15.8 g 4-hydroxy benzaldehyde were dissolved in 100 ml ethanol saturated with gaseous hydrochloric acid and the mixture was left at ambient temperature for 3 days. The ethanol was concentrated in vacuo. The residue was dissolved in 200 ml isopropanol, after which 500 ml water was added with agitation and the precipitate was filtered. The yield after recrystallization from isopropanol was 25.4 g of the expected chalcone.

reactant | 2-chloro acetophenone | 20 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | 4-hydroxy benzaldehyde | 15.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2'-chloro 4-hydroxy chalcone | ClC1=C(C(C=CC2=CC=C(C=C2)O)=O)C=CC=C1 | C15H11ClO2
